2151-01-09 10:54:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo male with NHL, ERSD, CAD s/p recent NSTEMI, mod-severe
   AoStenosis- on hospital floor receiving rituximab chemotherapy
   complicated by tumor lysis syndrome
   Transferred to [**Hospital Unit Name 1**] yesterday for CP  with med-induced hypotension
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2151-1-8**] 07:30 PM
 DIALYSIS CATHETER - START [**2151-1-8**] 07:30 PM
 EKG - At [**2151-1-8**] 08:00 PM
   *Kayexelate given for hyperkalemia
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2151-1-9**] 12:00 AM
   Other medications:
   lisinpril, plavix, lipitor, digoxin, ambien, SSI, filgastrin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-9**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.6
C (96.1
   HR: 77 (73 - 99) bpm
   BP: 73/43(46) {60/32(39) - 96/48(61)} mmHg
   RR: 14 (10 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,450 mL
                                                                    630 mL
   PO:
             80 mL
   TF:
   IVF:
                                                                    450 mL
                                                                    550 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,450 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   8.2 g/dL
   65 K/uL
   225 mg/dL
   6.8 mg/dL
   26 mEq/L
   5.3 mEq/L (Decreasing)
   61 mg/dL
   99 mEq/L
   140 mEq/L
   27.7 %
   3.4 K/uL
        [image002.jpg]
                            [**2151-1-9**]  12:36 AM
                            [**2151-1-9**]  06:52 AM
   WBC
   3.4
   Hct
   27.7
   Plt
   65
   Cr
   6.5
   6.8
   TropT
   0.18
   Glucose
   253
   225
   Other labs: PT / PTT / INR:12.7/29.9/1.1, CK / CKMB /
   Troponin-T:20/4/0.18, ALT / AST:17/34, Alk Phos / T Bili:69/0.2,
   Differential-Neuts:86.5 %, Lymph:9.5 %, Mono:3.8 %, Eos:0.2 %, LDH:1899
   IU/L, Ca++:7.1 mg/dL, Mg++:2.1 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 CHEST PAIN
   73 yo male with NHL, ESRD undergoing chemotherapy c/b tumor lysis
   syndrome- recently with CP and with hypotension induced by meds
   1/. CP: no further episodes since [**Hospital Unit Name 1**] arrival and cardiac enzymes
   negative. Suspect demand ischemia given some degree of fluid overload
   with underlying AoStenosis.
   2. Hypotension:
   Also improved;
   Some BP readings may have been spurious given that they were taken from
   his right leg - have since learned from HD nurse that only left leg BP
   readings have been reliable for the last few months.
   3. NHL
   Tumor lysis labs better this morning, check Q8hours
   Heme team following
   4. ESRD: HD this morning
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2151-1-8**] 07:30 PM
   Dialysis Catheter - [**2151-1-8**] 07:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : potentially to floor after HD, depending on BP
   Total time spent:

2151-01-10 10:16:00 Physician Attending Progress Note
Chief Complaint: CP/hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   73 yo male with severe CAD, AoS, CHF ef 30%, recent NSTEMI, B cell
   lmphoma, ESRD on HD- in [**Hospital Unit Name 1**] since [**1-8**] with CP/hypotension
   24 Hour Events:
   Recurrent CP last evening, pt's anginal equivalent- given
   dilaudid/ativan but not nitrates due to severe underlying aoStenosis-,
   concomittant with hypotension
   Received 250 cc bolus x 2, but with desats
   Not a cath candidate per cardiology- limited interventional or medical
   options
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2151-1-9**] 07:45 PM
   Hydromorphone (Dilaudid) - [**2151-1-9**] 07:45 PM
   Heparin Sodium (Prophylaxis) - [**2151-1-10**] 06:00 AM
   Ranitidine (Prophylaxis) - [**2151-1-10**] 09:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-10**] 10:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.8
C (96.5
   HR: 89 (75 - 107) bpm
   BP: 88/50(57) {54/26(34) - 92/67(71)} mmHg
   RR: 19 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74.4 kg (admission): 71.1 kg
             Total In:
                                                                  1,583 mL
                                                                    219 mL
   PO:
                                                                    355 mL
                                                                    125 mL
   TF:
   IVF:
                                                                  1,228 mL
                                                                     94 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    583 mL
                                                                    219 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: No(t) Cyanosis, No(t) Clubbing, left arm fistula
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   8.0 g/dL
   49 K/uL
   130 mg/dL
   3.9 mg/dL
   32 mEq/L
   3.6 mEq/L
   33 mg/dL
   99 mEq/L
   141 mEq/L
   26.4 %
   3.4 K/uL
        [image002.jpg]
                            [**2151-1-9**]  12:36 AM
                            [**2151-1-9**]  06:52 AM
                            [**2151-1-9**]  02:21 PM
                            [**2151-1-9**]  08:12 PM
                            [**2151-1-10**]  03:31 AM
   WBC
   3.4
   3.4
   Hct
   27.7
   26.4
   Plt
   65
   49
   Cr
   6.5
   6.8
   3.0
   3.5
   3.9
   TropT
   0.18
   0.18
   0.18
   0.16
   0.30
   Glucose
   [**Telephone/Fax (3) 12373**]30
   Other labs: PT / PTT / INR:12.6/28.5/1.1, CK / CKMB /
   Troponin-T:39/8/0.30, ALT / AST:16/36, Alk Phos / T Bili:63/0.2,
   Differential-Neuts:86.5 %, Lymph:9.5 %, Mono:3.8 %, Eos:0.2 %, LDH:1768
   IU/L, Ca++:6.8 mg/dL, Mg++:2.6 mg/dL, PO4:4.9 mg/dL
   Imaging: No CXR this morning
   Assessment and Plan
 CHEST PAIN
   73 yo male with NHL, ESRD< CAD, CHF, AoS with persistent CP and
   hypotension
   1. CP
   *Character sounds like pt's anginal equivalent, aggravated at various
   times by inadequate supply-demand ratio, including volume overload and
   hypotension. Pt's CAD, low BP of unclear accuracy, Aortic stenosis all
   making medical management more difficult
   *Cardiology consult for further recommendations
   *Pain control with narcotics, minimize agitation
   *Consider invasive BP monitoring
   *Likely will need to set up meeting with [**Hospital **] health care providers, pt
   and family to review course and limited tx options. Pt has historically
   not wanted to hear explicit details abt his medical care, so will need
   to clarify ahead of time with family. [**Month (only) 51**] be worthwhile getting SW
   involved.
   2. NHL: undergoing chemotherapy, cycle held yesterday. Onc continuing
   to follow. Tumor lysis labs unchanged.
   3. ESRD: HD as scheduled, no urgent indications today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2151-1-8**] 07:30 PM
   Dialysis Catheter - [**2151-1-8**] 07:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Pt is critically ill.

2151-01-11 10:32:00 Physician Attending Progress Note
Chief Complaint: Chest Pain
   Tachycardia
   Hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -No chest pain overnight
   -BP difficult to assess--with use of leg cuff improved through to today
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2151-1-10**] 05:28 PM
   Hydromorphone (Dilaudid) - [**2151-1-10**] 05:28 PM
   Heparin Sodium (Prophylaxis) - [**2151-1-11**] 06:00 AM
   Ranitidine (Prophylaxis) - [**2151-1-11**] 07:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Cough, white sputum
   Flowsheet Data as of  [**2151-1-11**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.7
   HR: 97 (97 - 120) bpm
   BP: 103/40(51) {49/22(34) - 103/77(81)} mmHg
   RR: 16 (0 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 71.1 kg
             Total In:
                                                                    859 mL
                                                                    342 mL
   PO:
                                                                    275 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    584 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,041 mL
                                                                    342 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%--6 lpm
   ABG: ///28/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), (Murmur: Systolic),
   [**2-20**]-_SEM
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Crackles : bilaterally, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   37 K/uL
   151 mg/dL
   5.3 mg/dL
   28 mEq/L
   4.3 mEq/L
   53 mg/dL
   101 mEq/L
   144 mEq/L
   24.4 %
   3.4 K/uL
        [image002.jpg]
                            [**2151-1-9**]  12:36 AM
                            [**2151-1-9**]  06:52 AM
                            [**2151-1-9**]  02:21 PM
                            [**2151-1-9**]  08:12 PM
                            [**2151-1-10**]  03:31 AM
                            [**2151-1-10**]  07:35 PM
                            [**2151-1-11**]  05:20 AM
   WBC
   3.4
   3.4
   3.4
   Hct
   27.7
   26.4
   24.4
   Plt
   65
   49
   37
   Cr
   6.5
   6.8
   3.0
   3.5
   3.9
   4.6
   5.3
   TropT
   0.18
   0.18
   0.18
   0.16
   0.30
   Glucose
   [**Telephone/Fax (3) 12373**]30
   188
   151
   Other labs: PT / PTT / INR:13.1/30.3/1.1, CK / CKMB /
   Troponin-T:39/8/0.30, ALT / AST:16/36, Alk Phos / T Bili:63/0.3,
   Differential-Neuts:86.5 %, Lymph:9.5 %, Mono:3.8 %, Eos:0.2 %,
   Albumin:2.7 g/dL, LDH:1556 IU/L, Ca++:6.8 mg/dL, Mg++:2.6 mg/dL,
   PO4:7.0 mg/dL
   Fluid analysis / Other labs: AG-15
   Imaging: CXR--mild worsening of edema, small pleural effusions R>L
   ECG: ECG-LBBb, LAD, SR, no significant ST segement elevations.
   Assessment and Plan
   73 yo male with significant CAD and B-cell lymphoma who now is admitted
   to [**Hospital Ward Name 57**] ICU with chest pain in the setting of hypotension limiting
   medication intervention.
   1)       CHEST PAIN--concerning increase in troponin to 0.3 but with CK
   persistently low at 30.  ECG was without obvious ST segment
   elevations.  Dr. [**First Name (STitle) **] has had ongoing management of patient
do not
   have further intervention possible in regards to CAGB or Stent
   placement.
   -Beta Blocker as possible for rate control
start with low dose
   -Follow ECG for symptoms
   -Will continue with supportive Rx below
   -MSO4 for pain that persists
   -Will transfuse with active ischemia and will give with dialysis
   2)Chronic Renal Failure-
   -persistent and will continue with hemodialysis
will monitor BP
   following dialysis today
   -renal diet
   -minimize fluid intake and will need to maintain negative fluild
   balance
   3)Coronary Artery Disease-
   -ASA
   -Lipitor
   4)Congestive Heart Failure
   -Digoxin increase to QOD
   5)B-Cell Lymphoma-
   -Dexamethasone to complete today
   -Allopurinol
   ICU Care
   Nutrition: PO diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2151-1-8**] 07:30 PM
   Dialysis Catheter - [**2151-1-8**] 07:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2151-01-12 07:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   No acute events overnight
   Denies any chest discomfort, dyspnea, palpitations, dizziness,
   abdominal pain or other complaints
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2151-1-11**] 07:53 AM
   Heparin Sodium (Prophylaxis) - [**2151-1-11**] 02:13 PM
   Other medications:
   Plavix 75mg
   Asa 325mg
   Atorvostatin 80mg
   Lisinopril 5mg
   Digoxin 0.125 QOD
   Nephrocaps
   Calcium acetate TID
   Metoprolol 12.5mg [**Hospital1 7**]
   Dilaudid 0.5- 1.0 q 3hrs prn
   Lorazepam
   Acetaminophen allopurinol 100mg QOD
   Dexamethasone 20 IV x 5days
   Albuterol
   Oxycodone q 6prn
   Heparin 5000 TID
   Senna/ colace
   Ranitidine 150 daily
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-12**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 96 (85 - 110) bpm
   BP: 79/44(53) {66/25(41) - 110/77(81)} mmHg
   RR: 31 (0 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.7 kg (admission): 71.1 kg
             Total In:
                                                                    480 mL
                                                                     69 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,800 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,320 mL
                                                                     69 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///31/
   Physical Examination
   Gen: Well appearing adult male, no acute distress.
   HEENT: PERRL, EOMI. MMM. OP clear. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD.
   Chest: bibasilar rales normal respiratory effort.
   Cor: Normal S1, S2. Mildly tachycardic; regular. [**4-20**] harsh systolic
   murmur heard best at LUSB.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: Warm, without edema. 2+ DP pulses bilaterally.
   Labs / Radiology
   40 K/uL
   8.4 g/dL
   184 mg/dL
   4.0 mg/dL
   31 mEq/L
   3.8 mEq/L
   39 mg/dL
   102 mEq/L
   145 mEq/L
   26.2 %
   3.0 K/uL
        [image002.jpg]
                            [**2151-1-9**]  12:36 AM
                            [**2151-1-9**]  06:52 AM
                            [**2151-1-9**]  02:21 PM
                            [**2151-1-9**]  08:12 PM
                            [**2151-1-10**]  03:31 AM
                            [**2151-1-10**]  07:35 PM
                            [**2151-1-11**]  05:20 AM
                            [**2151-1-12**]  05:23 AM
   WBC
   3.4
   3.4
   3.4
   3.0
   Hct
   27.7
   26.4
   24.4
   26.2
   Plt
   65
   49
   37
   40
   Cr
   6.5
   6.8
   3.0
   3.5
   3.9
   4.6
   5.3
   4.0
   TropT
   0.18
   0.18
   0.18
   0.16
   0.30
   Glucose
   [**Telephone/Fax (3) 12373**]30
   188
   151
   184
   Other labs: PT / PTT / INR:12.9/64.6/1.1, CK / CKMB /
   Troponin-T:39/8/0.30, ALT / AST:16/36, Alk Phos / T Bili:63/0.3,
   Differential-Neuts:86.5 %, Lymph:9.5 %, Mono:3.8 %, Eos:0.2 %,
   Albumin:2.7 g/dL, LDH:1556 IU/L, Ca++:7.3 mg/dL, Mg++:2.0 mg/dL,
   PO4:4.5 mg/dL
   CXR: [**1-11**]: increased bibasilar consolidation.  Elevated left
   hemidiaphragm with probable stomach bubble beneath (can not exclude air
   in pleural space.  Unchanged small bibasilar pleural effusions
   Assessment and Plan
   73 yoM with multiple medical problems including lymphoma, ESRD, CAD,
   CHF and AS transferred from [**Hospital Unit Name 1**] to CCU in anticipation of cardiac cath
   in setting of unstable angina.
   # CORONARIES: Patinet's symptoms, ECG changes and probably troponin
   leak are all suggestive of ongoing coronary ischemia. Acute treatment
   of pain is unfortuantely limited by patient's low blood pressure and
   aortic stenosis. He is planned to undergo cardiac catheterization today
   as above.
   -continue metoprolol as tolerated by BP
   -continue digoxin for rate and symptom control
   -continue ASA, clopidogrel for now with understanding that patient's
   thrombocytopenia likely increases bleeding risk
   -hold lisinopril in setting of low BP
   -continue IV dilaudid PRN for pain control as BP tolerates
   -could consider initiation of an antianginal such as ranolizine, which
   may have less preload effect than nitrates, although this would still
   need to be done cautiously given baseline low blood pressures and ESRD
   # RHYTHM: Currently in NSR, although admitted in afib. Rate control
   appears suboptimal, and may be contributing to chest pain. Would
   consider further uptitration of beta blocker as patient has appeared to
   tolerate well thus far. On dual antiplatelet therapy; not
   anticoagulated given underlying hematologic malignancy.
   # PUMP: Overall appears fairly euvolemic to mildly hypervolemic with
   crackles on exam. Patient has had intermittent hypotension throughout
   his course, likely related to poor forward flow from CHF/AS.
   - continue digoxin and low-dose beta blocker as tolerated
   - would consider small fluid boluses as needed for hypotension,
   although patient has not been symptomatic with this thus far
   - cont dialysis MWF for overall fluid management
   # hypoxia: Exact etiology unclear; potentially multifactorial in
   setting of possible atelectasis, small pleural effusions. 02
   requirement has increased slightly since ICU transfer (4 to 6L) Patient
   remains without any pulmonary symptoms or evidence of infection; should
   these develop, low threshold to start antibiotics given increasing
   consolidation on chest film.
   - repeat CXR tomorrow
   - low threshold to consider vanco/Zosyn/levofloxacin if CXR or clinical
   status worsens
   # Follicular lymphoma: Patient is in middle of cycle of oncovine,
   bendamustine, and decadron administered. Originally scheduled to
   receive rituximab on [**2151-1-9**], but held off due to episode of chest
   pain on the floor.
   -appreciate ongoing oncology input
   -continue close monitoring of K, phos, LDH, uric acid Q12
   -dexamethasone 20 mg IV x 5 days started [**1-7**], last day today
   -allopurinol 100 mg PO QOD
   # ESRD: On dialysis MWF. Last dialysis today. Appreciate renal input.
   Continue Nephrocape, calcium acetate.
   # Diabetes: Fair control based on lab sugars. QID FS. ISS.
   ICU Care
   Nutrition: NPO/ replete lytes prn
   Lines:
   Indwelling Port (PortaCath) - [**2151-1-8**] 07:30 PM
   Dialysis Catheter - [**2151-1-8**] 07:30 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:  ranitidine
   Communication:  Comments:
   Code status: full
   Disposition: CCU pending cardiac cath and stabilization of chest
   discomfort
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   signed on [**2151-1-13**] for service provided [**2151-1-12**]
   [**Known firstname **] will receive PCI LAD lesion today, previously deemed "unsuitable"
   for PCI but which is now causing recurrent, severe, life-threatening
   angina
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2151-1-13**]
   12:56 ------

2151-01-13 06:53:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - underwent cath: 2 bare metal stents at ostia (8mm) and proximal
   (15mm) LAD.
   - had cardiogenic shock with SBP 60s prior to PCI, IABP placed.
   - heparin gtt started 6h after the right femoral arterial sheath
   removed.
   - came back from cath lab on neo, being weaned overnight from 1.2 to
   0.8
   - post-cath check ok
   - midnight platelet 91, up from 40
   - IABP decreased from 1:1 to 2:1 at around 4am; heparin gtt d/ced in
   preparation to pull IABP
   - renal recs: HD planned for today
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 800 units/hour
   Phenylephrine - 0.7 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Plavix 75mg
   Asa 325mg
   Atorvostatin 80mg
   Lisinopril 5mg
   Digoxin 0.125 QOD
   Nephrocaps
   Calcium acetate TID
   Metoprolol 12.5mg [**Hospital1 7**]
   Dilaudid 0.5- 1.0 q 3hrs prn
   Lorazepam
   Acetaminophen allopurinol 100mg QOD
   Dexamethasone 20 IV x 5days
   Albuterol
   Oxycodone q 6prn
   Senna/ colace
   Ranitidine 150 daily
   benzoanate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: denies chest discomfort, SOB, abdominal discomfort,
   extremity pain/ numbness
   Flowsheet Data as of  [**2151-1-13**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.1
C (98.8
   HR: 101 (96 - 108) bpm
   BP: 83/48(67) {75/37(60) - 90/54(73)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 70.5 kg (admission): 71.1 kg
             Total In:
                                                                    888 mL
                                                                    165 mL
   PO:
                                                                    320 mL
             TF:
   IVF:
                                                                    568 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    888 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Gen: elderly appearing gentleman, sleeping comfortably in bed
   persistently on side despite repeated attempts to reposition on back;
   NAD
   HEENT: PERRL, EOMI. MMM.
   Neck: Supple, without adenopathy or JVD; tunneled HD line in place w/o
   erythema or tenderness
   Chest: bibasilar rales; decreased breath sounds LLL; normal respiratory
   effort.
   Cor: Normal S1, S2. Mildly tachycardic; regular. [**4-20**] harsh systolic
   murmur heard best at LUSB.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Extremity: R groin: dressing in place c/d/i. no bruit/ erythema/
   hematoma.  L groin: oozing moderate amt blood, NTTP; IABP in place.  2+
   DP pulses bilaterally; cap refill < 2sec b/l
   Labs / Radiology
   51 K/uL
   8.8 g/dL
   127 mg/dL
   4.9 mg/dL
   28 mEq/L
   4.1 mEq/L
   53 mg/dL
   100 mEq/L
   139 mEq/L
   27.5 %
   5.3 K/uL
        [image002.jpg]
                            [**2151-1-9**]  12:36 AM
                            [**2151-1-9**]  06:52 AM
                            [**2151-1-9**]  02:21 PM
                            [**2151-1-9**]  08:12 PM
                            [**2151-1-10**]  03:31 AM
                            [**2151-1-10**]  07:35 PM
                            [**2151-1-11**]  05:20 AM
                            [**2151-1-12**]  05:23 AM
                            [**2151-1-12**]  06:43 PM
                            [**2151-1-13**]  05:06 AM
   WBC
   3.4
   3.4
   3.4
   3.0
   7.5
   5.3
   Hct
   27.7
   26.4
   24.4
   26.2
   30.3
   27.5
   Plt
   65
   49
   37
   40
   91
   51
   Cr
   6.5
   6.8
   3.0
   3.5
   3.9
   4.6
   5.3
   4.0
   4.9
   TropT
   0.18
   0.18
   0.18
   0.16
   0.30
   Glucose
   [**Telephone/Fax (3) 12373**]30
   188
   151
   184
   127
   Other labs: PT / PTT / INR:15.6/63.2/1.4, CK / CKMB /
   Troponin-T:38/8/0.30, ALT / AST:16/36, Alk Phos / T Bili:63/0.3,
   Differential-Neuts:90.4 %, Band:0.0 %, Lymph:7.8 %, Mono:1.4 %, Eos:0.2
   %, Albumin:2.7 g/dL, LDH:1556 IU/L, Ca++:7.5 mg/dL, Mg++:2.1 mg/dL,
   PO4:4.5 mg/dL
   Sputum cx: [**1-11**]
   Respiratory flora: > 10 epithelial cells
   Assessment and Plan
   73 yoM with multiple medical problems including lymphoma, ESRD, CAD,
   CHF and AS transferred from [**Hospital Unit Name 1**] to CCU in anticipation of cardiac cath
   in setting of unstable angina.
   # Hypotension: most consistent with cardiogenic shock likely
   precipitated by small ischemic event although CE flat.  No evidence of
   mechanical complication- i.e. acute valvular pathology, septal defect,
   etc; tamponade; PE.  Currently requiring pressors and IABP, settings
   currently being weaned.  Likely has low baseline BP and has adequate
   end-organ perfusion with SBP in 70s
   - wean IABP, d/c as possible
   - wean phenylephrine and change to levophed as needed, keeping MAP > 55
   - monitor for cx of IABP i.e. limb ischemia, cholesterol emboli, CVA,
   etc
   - cont to cycle CE
   # CORONARIES: s/p cath yest revealing triple vessel dx with BMS to mid
   and ostial LAD.  Tolerated procedure well with no cx.  No further
   recurrence of anginal sx.
   -cycle CE
   -continue digoxin for rate and symptom control
   -continue ASA, clopidogrel for now with understanding that patient's
   thrombocytopenia likely increases bleeding risk
   -hold B-blocker and lisinopril in setting of low BP
   -continue IV dilaudid PRN for pain control as BP tolerates
   -could consider initiation of an antianginal such as ranolizine, which
   may have less preload effect than nitrates, although this would still
   need to be done cautiously given baseline low blood pressures and ESRD
   # HAP: left lower lobe infiltrate on CXR, cough, new O2 requirement
   (increased slightly since [**Hospital **] transfer from 4 to 6L).  Afebrile with no
   leukocytosis although pt at high risk of infection with
   immunocompromised status
   - trend WBC, fever curve
   - send repeat sputum cx
   - f/u final read CXR
   - start cefepime/ vancomycin for 8 day course
   # RHYTHM: Currently in NSR, although admitted in afib. Rate control
   appears suboptimal, and may be contributing to chest pain. On dual
   antiplatelet therapy; not anticoagulated given underlying hematologic
   malignancy.
   - hold b-blocker in light of cardiogenic shock
   # PUMP: Overall appears fairly euvolemic to mildly hypervolemic with
   crackles on exam. Patient has had intermittent hypotension throughout
   his course, likely related to poor forward flow from CHF/AS.
   - continue digoxin and low-dose beta blocker as tolerated
   - would consider small fluid boluses as needed for hypotension,
   although patient has not been symptomatic with this thus far
   - cont dialysis MWF for overall fluid management
   # Follicular lymphoma: Patient is in middle of cycle of oncovine,
   bendamustine, and decadron administered. Originally scheduled to
   receive rituximab on [**2151-1-9**], but held off due to episode of chest
   pain on the floor.
   -appreciate ongoing oncology input
   -continue close monitoring of K, phos, LDH, uric acid Q12
   -allopurinol 100 mg PO QOD
   # ESRD: On dialysis MWF.
   - dialysis today
   - Appreciate renal input
   - Continue Nephrocape, calcium acetate.
   # Diabetes: Fair control based on lab sugars. QID FS. ISS.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2151-1-8**] 07:30 PM
   Dialysis Catheter - [**2151-1-8**] 07:30 PM
   IABP line - [**2151-1-12**] 04:54 PM
   Prophylaxis:
   DVT: anticoagulated on heparin gtt with IABP
   Stress ulcer: ranitidine
   VAP:
   Comments:
   Communication:  Comments: patient
   Code status: DNR/DNI
   Disposition: critical
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy.
   Total time spent on patient care: 45 minutes.
   Additional comments:
   status post PCI lAD with excellent angiographic results
   no angina since then
   we are weaning IABP and will pull it today
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2151-1-13**]
   12:57 ------

2151-01-14 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 IABP LINE - STOP [**2151-1-13**] 04:00 PM
   - Started cefepime/vancomycin for CXR suspicious for PNA
   - Neo weaned to off, levo started, weaned from 0.15 -> 0.08
   - Balloon pump removed, patient in much better spirits afterwards
   - Per attending nephrologist, patient was considering re-orienting
   goals of care more towards comfort, which made family upset. After
   balloon pump removed, patient more determined to make full recovery
   - Getting HD overnight to clear contrast infused during cardiac cath
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Vancomycin - [**2151-1-13**] 11:00 AM
   Cefipime - [**2151-1-13**] 01:00 PM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-14**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 109 (97 - 115) bpm
   BP: 111/51(64) {77/38(46) - 111/68(73)} mmHg
   RR: 22 (16 - 29) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 71.1 kg
             Total In:
                                                                    911 mL
                                                                     76 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    671 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    911 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///30/
   Physical Examination
   Gen: Well appearing adult male, no acute distress.
   HEENT: PERRL, EOMI. MMM. OP clear. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD.
   Chest: CTAB, normal respiratory effort.
   Cor: Normal S1, S2. Mildly tachycardic; regular. [**4-20**] harsh systolic
   murmur heard best at LUSB.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Groins: no hematoma, no femoral bruits.  Dressing c/d/i.
   Extremity: Warm, without edema. 2+ DP pulses bilaterally.
   Labs / Radiology
   50 K/uL
   8.1 g/dL
   84 mg/dL
   3.9 mg/dL
   30 mEq/L
   3.9 mEq/L
   35 mg/dL
   100 mEq/L
   141 mEq/L
   25.3 %
   3.8 K/uL
        [image002.jpg]
                            [**2151-1-9**]  06:52 AM
                            [**2151-1-9**]  02:21 PM
                            [**2151-1-9**]  08:12 PM
                            [**2151-1-10**]  03:31 AM
                            [**2151-1-10**]  07:35 PM
                            [**2151-1-11**]  05:20 AM
                            [**2151-1-12**]  05:23 AM
                            [**2151-1-12**]  06:43 PM
                            [**2151-1-13**]  05:06 AM
                            [**2151-1-14**]  04:52 AM
   WBC
   3.4
   3.4
   3.4
   3.0
   7.5
   5.3
   3.8
   Hct
   27.7
   26.4
   24.4
   26.2
   30.3
   27.5
   25.3
   Plt
   65
   49
   37
   40
   91
   51
   50
   Cr
   6.8
   3.0
   3.5
   3.9
   4.6
   5.3
   4.0
   4.9
   3.9
   TropT
   0.18
   0.18
   0.16
   0.30
   Glucose
   [**Telephone/Fax (3) 12439**]88
   151
   184
   127
   84
   Other labs: PT / PTT / INR:13.9/83.6/1.2, CK / CKMB /
   Troponin-T:38/8/0.30, ALT / AST:16/36, Alk Phos / T Bili:63/0.3,
   Differential-Neuts:90.4 %, Band:0.0 %, Lymph:7.8 %, Mono:1.4 %, Eos:0.2
   %, Albumin:2.7 g/dL, LDH:1556 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:2.5 mg/dL
   No new micro data
   CXR today: L perihilar and lingular opacity improved.
   Assessment and Plan
   73 yoM with multiple medical problems including lymphoma, ESRD, CAD,
   CHF and AS transferred from [**Hospital Unit Name 1**] to CCU in anticipation of cardiac cath
   in setting of unstable angina.
   # CORONARIES: s/p BMS x 2 in LAD.  Doing well, no more chest pain.
   -continue ASA, clopidogrel for now with understanding that patient's
   thrombocytopenia likely increases bleeding risk
   -would add BB if BP improves
   .
   # HYPOTENSION:  pt is now off pressors, off IABP.  BP stable, sBP in
   90s.
   - get echo today
   - hold off on ACI and BB for now until sBP is over 100
   - would consider small fluid boluses as needed for hypotension,
   although patient has not been symptomatic with this thus far
   # RHYTHM: Currently in NSR, although admitted in afib. Rate control
   appears suboptimal, and may be contributing to chest pain. On dual
   antiplatelet therapy; not anticoagulated given underlying hematologic
   malignancy.
   - will give BB once BP can tolerate
   # PUMP: Overall appears fairly euvolemic to mildly hypervolemic with
   crackles on exam. Patient has had intermittent hypotension throughout
   his course, likely related to poor forward flow from CHF/AS.
   - continue digoxin
   - cont dialysis MWF for overall fluid management
   # hypoxia: Etiologies include pneumonia, atelectasis, small pleural
   effusions.  On abx, CXR improving
   - continue vanc/cefepime (day 1: [**2151-1-13**]) for a course of 8 days for
   HAP
   - nebulizers prn
   - continue to wean off O2
   # Follicular lymphoma: Patient is in middle of cycle of oncovine,
   bendamustine, and decadron administered. Originally scheduled to
   receive rituximab on [**2151-1-9**], but held off due to episode of chest
   pain on the floor.
   -appreciate ongoing oncology input
   -continue close monitoring of K, phos, LDH, uric acid Q12
   -dexamethasone 20 mg IV x 5 days started [**1-7**], last day today
   -allopurinol 100 mg PO QOD
   # ESRD: On dialysis MWF. Last dialysis today. Appreciate renal input.
   Continue Nephrocape, calcium acetate.
   # Diabetes: Fair control based on lab sugars. QID FS. ISS.
   ICU Care
   Nutrition:
   Regular cardiac healthy, renal diet
   Glycemic Control:  insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2151-1-8**] 07:30 PM
   Dialysis Catheter - [**2151-1-8**] 07:30 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: ranitidine
   VAP:  none
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: CCU for now
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 372**] or health care proxy. Progress reviewed
   extensively during family meeting.
   Total time spent on patient care: 60 minutes.
   Additional comments:
   Now off balloon pump and pressors.  Echocardiogram shows no change in
   LV function.  His aortic stenosis is of the low-flow low-gradient type
   that might lessen with increased LV stroke work that I hope will result
   from the LAD PCI.  I spent a good deal of time discussing with [**Known firstname **] and
   his family his overall poor prognosis and the limited goals of his PCI
   (primarly symptom releif but also hoping to lessen hypotension during
   HD).  Also discussed with Dr [**Last Name (STitle) 6521**] and [**Doctor Last Name 1788**] today.  We will plan
   to transfer [**Known firstname **] back to the O-med service once completely stable
   cardiac-wise for > 24 h.
   He will require resolution of his pneumonia before resuming
   chemotherapy.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2151-1-14**]
   14:07 ------

2151-01-15 06:46:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - renal recs: holding dialysis until [**2151-1-16**] as pt slightly
   hypotensive today; holding phos binder
   - repeat ECHO: no significant change from prior; LVEF approx 25%
   (overestimated on prior)
   Allergies:
   Aspirin
   upset stomach;
   Last dose of Antibiotics:
   Vancomycin - [**2151-1-14**] 10:00 AM
   Cefipime - [**2151-1-14**] 12:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2151-1-15**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**53**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.1
C (98.7
   HR: 101 (99 - 113) bpm
   BP: 75/38(47) {63/36(38) - 95/56(64)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 71 kg (admission): 71.1 kg
   Height: 63 Inch
                  Total In:
                                                                    603 mL
                  PO:
                                                                    240 mL
                  TF:
   IVF:
                                                                    363 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    603 mL
                                                                      0 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///30/
   Physical Examination
   Gen: Well appearing adult male, no acute distress.
   HEENT: PERRL, EOMI. MMM. OP clear. Conjunctiva well pigmented.
   Neck: Supple, without adenopathy or JVD.
   Chest: CTAB, normal respiratory effort.
   Cor: Normal S1, S2. Mildly tachycardic; regular. [**4-20**] harsh systolic
   murmur heard best at LUSB.
   Abdomen: Soft, non-tender and non-distended. +BS, no HSM.
   Groins: no hematoma, no femoral bruits.  Dressing c/d/i.
   Extremity: Warm, without edema. 2+ DP pulses bilaterally.
   Labs / Radiology
   39 K/uL
   7.6 g/dL
   69 mg/dL
   4.9 mg/dL
   30 mEq/L
   4.1 mEq/L
   40 mg/dL
   101 mEq/L
   141 mEq/L
   23.6 %
   2.4 K/uL
        [image002.jpg]
                            [**2151-1-9**]  02:21 PM
                            [**2151-1-9**]  08:12 PM
                            [**2151-1-10**]  03:31 AM
                            [**2151-1-10**]  07:35 PM
                            [**2151-1-11**]  05:20 AM
                            [**2151-1-12**]  05:23 AM
                            [**2151-1-12**]  06:43 PM
                            [**2151-1-13**]  05:06 AM
                            [**2151-1-14**]  04:52 AM
                             [**2151-1-15**]  04:08 AM
   WBC
   3.4
   3.4
   3.0
   7.5
   5.3
   3.8
   2.4
   Hct
   26.4
   24.4
   26.2
   30.3
   27.5
   25.3
   23.6
   Plt
   49
   37
   40
   91
   51
   50
   39
   Cr
   3.0
   3.5
   3.9
   4.6
   5.3
   4.0
   4.9
   3.9
   4.9
   TropT
   0.18
   0.16
   0.30
   Glucose
   233
   130
   188
   151
   184
   127
   84
   69
   Other labs:
   PT / PTT / INR:15.4/29.9/1.4,
   LDH:867 IU/L,
   Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   No new micro today
   CXR today: pending
   Assessment and Plan
   73 yoM with multiple medical problems including lymphoma, ESRD, CAD,
   CHF and AS transferred from [**Hospital Unit Name 1**] to CCU in anticipation of cardiac cath
   in setting of unstable angina.
   # CORONARIES: s/p BMS x 2 in LAD.  Doing well, no more chest pain.
   -continue ASA, statin, clopidogrel for now with understanding that
   patient's thrombocytopenia likely increases bleeding risk
   -would add BB if BP improves (metoprolol 12.5mg [**Hospital1 7**]
home dose)
   .
   # HYPOTENSION:  pt is now off pressors, off IABP.  BP stable, sBP in
   90s.
   - get echo today
   - hold off on ACI (lisinopril 10mg daily) and BB for now until sBP is
   over 100
   - would consider small fluid boluses as needed for hypotension,
   although patient has not been symptomatic with this thus far
   # RHYTHM: Currently in NSR, although admitted in afib. Rate control
   appears suboptimal, and may be contributing to chest pain. On dual
   antiplatelet therapy; not anticoagulated given underlying hematologic
   malignancy.
   - will give BB once BP can tolerate
   # PUMP: Overall appears fairly euvolemic to mildly hypervolemic with
   crackles on exam. Patient has had intermittent hypotension throughout
   his course, likely related to poor forward flow from CHF/AS.
   - continue digoxin
   - cont dialysis MWF for overall fluid management
   # HYPOXIA: Etiologies include pneumonia, atelectasis, small pleural
   effusions.  On abx, CXR improving
   - continue vanc/cefepime (day 1: [**2151-1-13**]) for a course of 8 days for
   HAP
   - nebulizers prn
   - continue to wean off O2
   # FOLLICULAR LYMPHOMA: Patient is in middle of cycle of oncovine,
   bendamustine, and decadron administered. Originally scheduled to
   receive rituximab on [**2151-1-9**], but held off due to episode of chest
   pain on the floor.
   -appreciate ongoing oncology input
   -continue close monitoring of K, phos, LDH, uric acid Q12
   -dexamethasone 20 mg IV x 5 days started [**1-7**], last day today
   -allopurinol 100 mg PO QOD
   - may be able to transfer back to OMED for continued care for lymphoma
   # ESRD: On dialysis MWF.
   - Appreciate renal input.
   - Continue Nephrocape, calcium acetate.
   - per renal, hold HD until [**2151-1-16**]
   # Diabetes: Fair control based on lab sugars. QID FS. ISS.
   ICU Care
   Nutrition: regular
   Glycemic Control:  insulin sliding scale
   Lines:
   Indwelling Port (PortaCath) - [**2151-1-8**] 07:30 PM
   Dialysis Catheter - [**2151-1-8**] 07:30 PM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer:  ranitidine
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: will go back to O-MED today
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 1050**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) 31**] [**Last Name (NamePattern1) 4847**], MD
   on:[**2151-1-15**] 10:05 ------